US07932259B2
With ice-cooling, to a suspension of 1-(4-chloro-2,6-dimethylphenyl)-3,6-dimethyl-1H-pyrrolo[2,3-b]pyridin-4-ylamine (17.9 g) in a mixture of 1,4-dioxane (45 mL) and water (45 mL) was added dropwise a mixture of concentrated H2SO4 (17.8 mL) and water (90 mL) and then a solution of NaNO2 (6.2 g) in water (62 mL). The mixture was stirred at room temperature for 20 minutes, and heated at 100° C. for 1.5 hours. After cooling in an ice-cooling bath, the reaction mixture was poured into a cold saturated NaHCO3 aqueous solution and extracted with CHCl3. The organic layer was dried over anhydrous sodium sulfate, and filtered. The filtrate was concentrated under reduced pressure to give a solid. The solid was washed with a mixture of ethyl acetate and diisopropylether (1:5) to give 1-(4-chloro-2,6-dimethylphenyl)-3,6-dimethyl-1H-pyrrolo[2,3-b]pyridin-4-ol (14.4 g).

reactant | 1-(4-chloro-2,6-dimethylphenyl)-3,6-dimethyl-1H-pyrrolo[2,3-b]pyridin-4-ylamine | 17.9 g | ClC1=CC(=C(C(=C1)C)N1C=C(C=2C1=NC(=CC2N)C)C)C | C17H18ClN3
reactant | H2SO4 | 17.8 mL | OS(=O)(=O)O | H2O4S
reactant | NaNO2 | 6.2 g | N(=O)[O-].[Na+]
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | 1,4-dioxane | 45 mL | O1CCOCC1 | C4H8O2
solvent | water | 45 mL | O | H2O
solvent | water | 62 mL | O | H2O
solvent | water | 90 mL | O | H2O
product | 1-(4-chloro-2,6-dimethylphenyl)-3,6-dimethyl-1H-pyrrolo[2,3-b]pyridin-4-ol | 14.4 g | ClC1=CC(=C(C(=C1)C)N1C=C(C2=C1N=C(C=C2O)C)C)C | C17H17ClN2O
